US06589978B2
(2S,5S)-5-{3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propyl}-1-methyl-1H-[1,2,4]triazole
The title compound, colorless oil, MS: m/e=443.2 (M+H+) and [α]D20=−68.8° (c=0.3443 in chloroform), was prepared in accordance with the general method of example 26 from (2S,5S)-4-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-butyronitrile and methylhydrazine.

reactant | (2S,5S)-4-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-butyronitrile | FC1=CC=C(C=C1)[C@@H]1CC[C@@H](N1S(=O)(=O)C1=CC=C(C=C1)C)CCCC#N | C21H23FN2O2S
reactant | methylhydrazine | CNN | CH6N2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (2S,5S)-5-{3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propyl}-1-methyl-1H-[1,2,4]triazole | FC1=CC=C(C=C1)[C@@H]1CC[C@@H](N1S(=O)(=O)C1=CC=C(C=C1)C)CCCC1=NC=NN1C | C23H27FN4O2S
